US07781454B2
Step 1: 3-Bromo-5-chlorophenyl 2-chloro-5-fluorophenyl ether
To a solution of 2-chloro-5-fluorophenol (82.3 g, 562 mmol) and 1-bromo-3-chloro-5-fluorobenzene (124 g, 590 mmol) in NMP (200 mL) was added potassium carbonate (155 g, 1.123 mol). The resulting mixture was then heated to 140° C. and maintained at 140° C. for hours, after which the mixture was poured into water (1500 mL) and extracted with EtOAc (2500+1500 mL). The combined extracts were washed with water and brine. This solution was concentrated on the rotary evaporator and the residue was distilled at high vacuum at 135-190° C. to give the title compound as a clear, colorless liquid. 1H NMR (CDCl3) δ 7.45 (dd, 1H, J=9.0 and 4.5 hz), 7.28 (dd, 1H, J=1.7 Hz), 7.26 (s, 1H), 7.00 (dd, 1 h, J=1.95 Hz), 6.92 (ddd, 1H, J=10.5, 7.6 and 2.7 Hz), 6.89 (dd, 1H, J=1.95 Hz).

reactant | 2-chloro-5-fluorophenol | 562 mmol, 82.3 g | ClC1=C(C=C(C=C1)F)O | C6H4ClFO
reactant | 1-bromo-3-chloro-5-fluorobenzene | 590 mmol, 124 g | BrC1=CC(=CC(=C1)F)Cl | C6H3BrClF
reactant | potassium carbonate | 1.123 mol, 155 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1500 mL | O | H2O
solvent | NMP | 200 mL | CN1CCCC1=O | C5H9NO
product | 3-Bromo-5-chlorophenyl 2-chloro-5-fluorophenyl ether | ClC1=C(C=C(C=C1)F)OC1=CC(=CC(=C1)Cl)Br | C12H6BrCl2FO
